US03934024
B. 1,2-Dihydro-10-hydroxy-8-(3-methyl-2-octyl)-5-oxo-3H,5H-thiopyrano[2,3-c][1]benzopyran
A solution of 14.2 g. (0.06 mole) of 5-(3-methyl-2-octyl)resorcinol and 11.1 g. (0.063 mole) of methyl 3-oxo-2,3,4,5-tetrahydro-6H-thiopyran-2-carboxylate in 90 ml. of absolute ethanol was cooled in an ice-salt bath and saturated with anhydrous hydrogen chloride. After standing for 2 days at room temperature, the ethanol was removed on a rotary evaporator. The residue was dissolved in ether, washed with sodium bicarbonate solution and dried over sodium sulfate. Evaporation of the solvent gave 28.0 g. of residue which was chromatographed using activated magnesium silicate (60-100 mesh) and graded methanol/chloroform solvent mixtures. A total of 10 g. of crude solid was obtained from the 1% methanol/chloroform fractions. The material was recrystallized twice from ethyl acetate/hexane to give 8.5 g. (40%) colorless crystals, m.p. 131°-133°C. The proposed structure was confirmed by IR and NMR spectra.

reactant | 5-(3-methyl-2-octyl)resorcinol | 0.06 mole | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
reactant | methyl 3-oxo-2,3,4,5-tetrahydro-6H-thiopyran-2-carboxylate | 0.063 mole | O=C1C(SCCC1)C(=O)OC | C7H10O3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Dihydro-10-hydroxy-8-(3-methyl-2-octyl)-5-oxo-3H,5H-thiopyrano[2,3-c][1]benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)=O)SCCC1)C(C)C(CCCCC)C | C21H28O3S
